US07504522B2
Preparation of 2,4,4′-trichlorobenzhydrol (2)
To a stirred solution of 2,4-dichlorobenzaldehyde (286 mmol) in diethyl ether (500 mL) was added 4-chlorophenylmagnesium bromide (1.0 M in diethyl ether, 286 mmol) dropwise at 0° C. over a period of 1 hour. The reaction was allowed to warm to ambient temperature, and stirred for 3 h. The reaction mixture was quenched with saturated ammonium chloride solution (500 mL) and extracted with diethyl ether (2×500 mL), the extracts were washed with water and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by trituration with iso-hexane (500 mL) to yield the product as a white solid (60.0 g, 73%).

reactant | 2,4-dichlorobenzaldehyde | 286 mmol | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 4-chlorophenylmagnesium bromide | 286 mmol, 1.0 M | ClC1=CC=C(C=C1)[Mg]Br
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2,4,4′-trichlorobenzhydrol | 60.0 g, 73% | ClC1=C(C(C2=CC=C(C=C2)Cl)O)C=CC(=C1)Cl | C13H9Cl3O
